Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Headache, double vision
 
Major Surgical or Invasive Procedure:
___ Endoscopic endonasal approach suprasellar mass resection 


 
History of Present Illness:
___ year old gentleman who presents to ___ after imaging done 
during a work up for headache for a few days revealed a 
pituitary lesion. His imaging was initially read as negative and 
then ___ was called back after re-read revealed a possible mass.
An MRI was done which confirmed the preseance of the mass. ___ 
complains of headache but otherwise has no complaints. ___ denies 
nausea, vomiting, dizziness, difficulty ambualting, changes in 
vision, hearing, or speech. 

___ was recently diagnosed with acromegaly and pituitary apoplexy 
which improved after starting prednisone and metformin at his 
last visit.

 
Past Medical History:
None
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Exam on Admission
Gen: acromegalic, WD/WN, comfortable, NAD.
HEENT: Pupils: PERRL   EOMs: L CN VI palsy
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, to
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Left CN VI palsy otherwise Extraocular movements
intact bilaterally without nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch, propioception, pinprick and
vibration bilaterally. 

Toes downgoing bilaterally

Coordination: normal on finger-nose-finger

EXAM ON DISCHARGE
General: well appearing, NAD
Neuro: A/Ox3, strength ___ throughout all upper and lower 
extremities, sensation to light touch intact throughout
HEENT: mild left lateral rectus palsy with full lateral 
confrontation (greatly improved from pre-op), visual fields 
grossly intact bilaterally, CNII-XII otherwise grossly intact 
(EOM otherwise full ROM, light sensation on face intact and 
equal throughout, smile symmetric, eye closure full, symmetric 
palatal elevation, tongue midline)
Cards: RRR, S1 and S2 heard
Pulm: CTAB b/l
Abd: soft, NTND
 
Pertinent Results:
MRI HEAD: ___
IMPRESSION: 
Status post transsphenoidal resection of a pituitary tumor with 
expected postoperative changes.

CTA HEAD: ___
IMPRESSION: 
1. Limited examination due to poor contrast bolus. 
2. Abutment and slight lateral displacement of the left 
cavernous and proximal supra clinoid internal carotid artery by 
stable soft tissue mass in the sella turcica.  Please note mass 
is better evaluated on prior MRI examinations. 
3. No acute intracranial abnormality. 
4. Paranasal sinus disease and nonspecific right mastoid tip 
fluid as 
described. 

CT HEAD: ___
IMPRESSION: 
1. Status post endoscopic endonasal resection of suprasellar 
mass with 
associated postsurgical changes as described. 
2. No evidence acute intracranial hemorrhage. 
3. Redemonstration of paranasal sinus disease, with superimposed 
postoperative changes as described. 

___ MR head with and without contrast:
Status post transsphenoidal resection of a pituitary tumor with 
expected 
postoperative changes. 

___ 12:39PM BLOOD Na-136 K-4.4 Cl-100
___ 02:23AM BLOOD Creat-1.0 Na-139 K-4.4 Cl-104
___ 04:46AM BLOOD Glucose-230* UreaN-17 Creat-1.0 Na-139 
K-3.9 Cl-105 HCO3-20* AnGap-18
___ 04:46AM BLOOD Calcium-8.2* Phos-4.5 Mg-1.7
___ 07:17AM BLOOD Cortsol-18.2
___ 04:46AM BLOOD Cortsol-27.2*
___ 04:58PM BLOOD Type-ART pO2-233* pCO2-34* pH-7.49* 
calTCO2-27 Base XS-3
___ 04:58PM BLOOD Glucose-179* Lactate-1.3 Na-136 K-4.4 
Cl-105
___ 05:47PM BLOOD Hgb-9.0* calcHCT-27
___ 04:58PM BLOOD Hgb-8.7* calcHCT-26
___ 04:58PM BLOOD freeCa-1.01*
 
Brief Hospital Course:
Mr. ___ is a ___ y/o who presented electively on ___ for 
resection of ___ secreting macroadenoma (endoscopic endonasal 
approach). His intraoperative course was uneventful, please 
refer to the intraoperative for further details. ___ was 
extubated in OR and transferred to the PACU for further 
monitoring. 

On ___, the patient remained neurologically and hemodynamically 
stable. ___ was transferred to the step down. His urine output 
remained stable, labs are stable. ___ was weaned off Nicardipine 
drip and his blood pressure remained stable. His only initial 
pre-operative deficit on neuro exam (left lateral rectus palsy) 
continued to improve. His MRI demonstrated minimal residual 
disease.

On ___, the patients exam again continued to improve and ___ 
remained neurologically and hemodynamically stable. His urine 
output was appropriate and his IVF and foley were d/c'ed. ___ was 
taking in good PO. AM cortisol was adequate and his steroids 
were d/c'ed. His packs were dry and in place.

On ___, ___ continued to do well and his left lateral rectus 
palsy continued to improve. Nasal packing was removed without 
issue (no signs of epistaxis or CSF leak).

On ___, Mr. ___ continued to recover well and was 
neurologically stable.  ___ was noted to have high urine output 
over the prior evening.  In preparation for discharge, his 
sodium and urine specific gravity was checked to assess for 
diabetes insipidus.  Both values were within normal limits, 
outside the concern for DI.  

Mr. ___ was discharged home in the care of his wife on the 
afternoon of ___.  ___ was ambulating independently.  ___ had no 
signs of a CSF leak and his pain was well-controlled.  

Per his discharge instructions, the patient was instructed to 
follow up with his PCP for close management of his hypertension 
and hyperglycemia.  Per medical records, the patient was 
recently started on Metformin.  While inpatient, ___ was started 
on lisinopril 10mg daily for systolic blood pressures greater 
than 160 mmHg.
 
Medications on Admission:
Metformin ER 500 mg tablet,extended release 24 hr, 1 tablet PO 
daily
oxycodone-acetaminophen 5 mg-325 mg tablet, 1 tablet(s) daily  
prednisone 5 mg tablet
Colace 100 mg capsule
 

 
Discharge Medications:
1. Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
2. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pituitary adenoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___ your pain medicine as prescribed.
oExercise should be limited to walking; no lifting, straining, 
or excessive bending.
oIncrease your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
oUnless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, and 
Ibuprofen etc. 
oClearance to drive and return to work will be addressed at 
your post-operative office visit.
oContinue Sinus Precautions for an additional two weeks.  This 
means, no use of straws, forceful blowing of your nose, or use 
of your incentive spirometer. 
oIf you have been discharged on Prednisone, take it daily as 
prescribed.  
oIf you are required to take Prednisone, an oral steroid, make 
sure you are taking a medication to protect your stomach 
(Prilosec, Protonix, or Pepcid), as this medication can cause 
stomach irritation.  Prednisone should also be taken with a 
glass of milk or with a meal. 

CALL YOUR DOCTOR IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

oNew onset of tremors or seizures.
oAny confusion or change in mental status. 
oAny numbness, tingling, weakness in your extremities.
oPain or headache that is continually increasing, or not 
relieved by pain medication.
oAny signs of infection at the wound site: redness, swelling, 
tenderness, or drainage.
oIt is normal for feel nasal fullness for a few days after 
surgery, but if you begin to experience drainage or salty taste 
at the back of your throat, that resembles a “dripping” 
sensation, or persistent, clear fluid that drains from your nose 
that was not present when you were sent home, please call. 
oFever greater than or equal to 101° F.
oIf you notice your urine output to be increasing, and/or 
excessive, and you are unable to quench your thirst, please call 
your endocrinologist. 
 
Followup Instructions:
___